US03947416
Preparation of Isatoic Anhydride
A 250 ml. flask was charged with 2.0 g. phthalamic acid* suspended in 100 ml. dry benzene, and heated to boiling. A 5.4 g. portion of lead tetra-acetate was added to the boiling suspension, and the reaction mixture was heated under reflux, with stirring, for 48 hours. The reaction mixture was then cooled and solids were separated therefrom by filtration. The residue was washed 2 times with water; isatoic anhydride was recrystallized from dioxane, and dried in vacuo for 2 hours. The final yield of isatoic anhydride amounted to 0.87 g. tan solids, melting point 243°, and represented 44 percent of theory based on the phthalamic acid. The structure was confirmed by infrared spectroscopy.

reactant | phthalamic acid | C(C=1C(C(=O)N)=CC=CC1)(=O)O | C8H7NO3
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Isatoic Anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
